* A quad opamp ngspice model
* file name: TL074-quad.lib
.subckt TL074c 1out 1in- 1in+ vcc- 2in+ 2in- 2out vcc+ 3out 3in- 3in+ 4in+ 4in- 4out 
.include TL074.lib
XU1A 1in+ 1in- vcc+ vcc- 1out TL074
XU1B 2in+ 2in- vcc+ vcc- 2out TL074
XU1C 3in+ 3in- vcc+ vcc- 3out TL074
XU1D 4in+ 4in- vcc+ vcc- 4out TL074
.ends
